US06743921B2
120 g (0.289 mol) racemic 1-(4-benzyloxy-phenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-1-propanone and 1360 ml acetone were charged to a 3 liter flask equipped with a mechanical stirrer, a thermometer and a reflux condenser. The resulting solution was warmed to 50° C., then 105 g (0.293 mol) di-O-benzoyl-D-tartaric acid was added followed by a 200 ml acetone rinse. The solution was stirred at 50° C. and a suspended solid formed after about 25 minutes. The suspension was stirred as an additional 5 hours at 50° C., and then the mixture was cooled to room temperature over 1 hour. The suspension was filtered and the solid cake was washed with 500 ml acetone. The solid was dried at about 45° C. under vacuum (10 mmHg) overnight, giving 191 g (86% yield) (2S)-1-(4-benzyloxy-phenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-1-propanone di-O-benzoyl-D-tartaric acid salt.

reactant | racemic 1-(4-benzyloxy-phenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-1-propanone | 0.289 mol, 120 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C)N1CCC(CC1)(C1=CC=CC=C1)O)=O | C27H29NO3
reactant | di-O-benzoyl-D-tartaric acid | 0.293 mol, 105 g | C(C1=CC=CC=C1)(=O)OC([C@@H](O)[C@H](O)C(=O)OC(C1=CC=CC=C1)=O)=O | C18H14O8
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 1360 ml | CC(=O)C | C3H6O
product | (2S)-1-(4-benzyloxy-phenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-1-propanone di-O-benzoyl-D-tartaric acid salt | 191 g, 86% yield | C(C1=CC=CC=C1)(=O)OC([C@@H](O)[C@H](O)C(=O)OC(C1=CC=CC=C1)=O)=O.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C([C@H](C)N1CCC(CC1)(C1=CC=CC=C1)O)=O | InChI=1S/C27H29NO3.C18H14O8/c1-21(28-18-16-27(30,17-19-28)24-10-6-3-7-11-24)26(29)23-12-14-25(15-13-23)31-20-22-8-4-2-5-9-22;19-13(17(23)25-15(21)11-7-3-1-4-8-11)14(20)18(24)26-16(22)12-9-5-2-6-10-12/h2-15,21,30H,16-20H2,1H3;1-10,13-14,19-20H/t21-;13-,14-/m00/s1
